US06548495B2
(4-Cyano-2-nitro-5-thiomorpholin-4-yl-phenyl)-carbamic Acid tert-Butyl Ester
The title compound was prepared from (4-cyano-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example A10) (2.00 g, 7.11 mmol) and thiomorpholine (3.38 ml, 35.6 mmol) in DMSO (30 mL) at RT according to the general procedure C. Obtained as a light yellow solid (2.20 g, 85%).

reactant | (4-cyano-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester | 7.11 mmol, 2.00 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)C#N)[N+](=O)[O-])=O | C12H12FN3O4
reactant | thiomorpholine | 35.6 mmol, 3.38 ml | N1CCSCC1 | C4H9NS
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | (4-Cyano-2-nitro-5-thiomorpholin-4-yl-phenyl)-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCSCC1)C#N)[N+](=O)[O-])=O | C16H20N4O4S
